US04206225
4-(2,5-Dihydroxyphenyl)-1-phenoxypentane
A solution of 4-(2,5-dibenzyloxyphenyl)-1-phenoxypent-3-ene (51 g., 0.113 M) in a mixture of absolute ethanol (160 ml.), ethyl acetate (160 ml.) and concentrated hydrochloric acid (0.2 ml.) is hydrogenated for 12 hours under 55 lbs. hydrogen in the presence of 10% Pd/C. Removal of the catalyst by filtration and concentration of the filtrate under vacuum yields the desired product.

reactant | 4-(2,5-dibenzyloxyphenyl)-1-phenoxypent-3-ene | 0.113 M, 51 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(=CCCOC1=CC=CC=C1)C | C31H30O3
reactant | ethanol | 160 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2,5-Dihydroxyphenyl)-1-phenoxypentane | OC1=C(C=C(C=C1)O)C(CCCOC1=CC=CC=C1)C | C17H20O3
